US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (1.50 g, 3.53 mmol, from preparation A) and 6-chloro-2-(4-isopropoxyphenyl)hexanoic acid (1.26 g, 4.42 mmol, from preparation AV) were coupled [N-methylmorpholine (2.00 mL, 17.7 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.556 mL, 17.7 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (50% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(4-isopropoxyphenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (805 mg, 1.52 mmol, 43% yield) as an off-white solid. LC-MS (M+H)+ 529.3.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-isopropoxyphenyl)hexanoic acid | 4.42 mmol, 1.26 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OC(C)C | C15H21ClO3
reactant | N-methylmorpholine | 17.7 mmol, 2.00 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 17.7 mmol, 0.556 mL | NN | H4N2
product | 5-(5-chloro-1-(4-isopropoxyphenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 1.52 mmol, 805 mg, 43% yield | ClCCCCC(C1=CC=C(C=C1)OC(C)C)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C26H30Cl2N6O2
